US05239083
4-{2-[3-(1-benzhydrylindol-5-yl)isocrotonoylamino]-4-methylphenoxy}butyric acid (Compound 49)
305 mg of compound 49 was obtained in a similar manner to those described in the Examples 1 and 2 using 558 mg of ethyl 4-(2-amino-4-methylphenoxy)butyrate and 455 mg of 3-(1-benzhydrylindol-5-yl)isocrotonic acid obtained according to the procedures described in the Reference Examples 1-4.

reactant | ethyl 4-(2-amino-4-methylphenoxy)butyrate | 558 mg | NC1=C(OCCCC(=O)OCC)C=CC(=C1)C | C13H19NO3
reactant | 3-(1-benzhydrylindol-5-yl)isocrotonic acid | 455 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)/C(=C/C(=O)O)/C | C25H21NO2
product | 4-{2-[3-(1-benzhydrylindol-5-yl)isocrotonoylamino]-4-methylphenoxy}butyric acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)/C(=C/C(=O)NC1=C(OCCCC(=O)O)C=CC(=C1)C)/C | C36H34N2O4
